US06680362B1
A mixture of 2-(2-diethylthiocarbamoylsulfanylpropionylamino)-2-methylpropionic acid (4.00 g; 0.0132 mol), TEMPO (2.04 g; 0.0132 mol) and ethyl acetate (35 ml) in a glass jar was purged with nitrogen gas for 20 minutes. The jar was then sealed and the mixture was irradiated with a 350 mn ultraviolet lamp (Sylvania 350 Blacklight F15T8/350BL available from Osram Sylvania, Danvers, Mass.) for 65 hours. The mixture was then concentrated under vacuum and diluted with diethyl ether (50 ml). The solid was isolated by filtration and was dried under vacuum to afford 1.75 g (42% yield) of 2-methyl-2-[2-(2,2,6,6-tetramethylpiperidin-1-yloxy)-propionylamino]-propionic acid.

reactant | 2-(2-diethylthiocarbamoylsulfanylpropionylamino)-2-methylpropionic acid | 0.0132 mol, 4.00 g | C(C)N(C(=S)SC(C(=O)NC(C(=O)O)(C)C)C)CC | C12H22N2O3S2
reactant | TEMPO | 0.0132 mol, 2.04 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
product | 2-methyl-2-[2-(2,2,6,6-tetramethylpiperidin-1-yloxy)-propionylamino]-propionic acid | 1.75 g, 42% yield | CC(C(=O)O)(C)NC(C(C)ON1C(CCCC1(C)C)(C)C)=O | C16H30N2O4
